US09145380B2
2,3-Difluoro-N-(2-sulfamoylphenyl)benzenesulfonamide
2-Aminobenzenesulfonamide (26 mg, 0.15 mmol) was dissolved in pyridine (1 ml) and 2,3-difluorophenylsulfonyl chloride (19 μl, 0.15 mmol) was added and the reaction stirred overnight. The solvent was removed in vacuo and the residue was purified by preparative HPLC (XTerra MS C8 column, acetonitrile/ammonium acetate buffer) to give the title compound (30 mg, 58%).

reactant | 2-Aminobenzenesulfonamide | 0.15 mmol, 26 mg | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | 2,3-difluorophenylsulfonyl chloride | 0.15 mmol, 19 μl | FC1=C(C=CC=C1F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 2,3-Difluoro-N-(2-sulfamoylphenyl)benzenesulfonamide | 30 mg, 58% | FC1=C(C=CC=C1F)S(=O)(=O)NC1=C(C=CC=C1)S(N)(=O)=O | C12H10F2N2O4S2
